US06288096B1
5-([4-[2-(4-(3-Nitrophenylsulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
2,4 g (4.6 mmole) 5-(4-[2-(4-(3-nitrophenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione and 3.5 g (14 mmole) diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridine dicarboxylate were mixed and heated to 145° C. under vacuum and after 1-2 hours the heat was removed. The solid material was dissolved in toluene, evaporated in vacuo and purified by chromatography on silica gel twice with ethyl acetate:petroleum ether (1:1) as eluents to give 1.002 g (yield 41%) of the desired product.

reactant | 5-(4-[2-(4-(3-nitrophenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 4.6 mmole, 2,4 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C24H18N2O8S2
reactant | diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridine dicarboxylate | 14 mmole, 3.5 g | C(C)OC(=O)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
product | 5-([4-[2-(4-(3-Nitrophenylsulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 1.002 g, yield 41% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C24H20N2O8S2
